datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([S:2][H:9])([C:3](=[S:4])[H:10])[H:8])([H:5])([H:6])[H:7].[C:11](=[C:12]([H:14])[H:15])[H:13]>>[C:0]([C:1]([S:2][H:9])[C:3](=[S:4])[H:10])([H:5])([H:6])[H:7].[H:8][C:11](=[C:12]([H:14])[H:15])[H:13],-10.8784
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([H:22])([H:23])[H:24])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])[H:11])([H:8])([H:9])[H:10].[C:25](=[O:26])[H:27]>>[C-:25]#[O+:26].[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([H:22])([H:23])[H:24])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:11])[H:27])([H:8])([H:9])[H:10],0.0
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:8])([H:9])[H:10])[H:7])[H:6])[H:5].[C:11](#[C:12][C:13]([C:14]([H:17])([H:18])[H:19])[C:15]([H:20])([H:21])[H:22])[H:16]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:8])([H:9])[H:10])([H:7])[C:13]([C:12]#[C:11][H:16])([C:14]([H:17])([H:18])[H:19])[C:15]([H:20])([H:21])[H:22])[H:6])[H:5],26.8613
[C:0]([C:1](=[N:2][H:6])[H:5])([H:3])[H:4].[H:7]>>[C:0](=[C:1]=[N:2][H:6])([H:3])[H:4].[H:5][H:7],0.0
[C:0](=[C:1]([H:4])[H:5])([H:2])[H:3].[C:6]([c:7]1[c:8]([H:15])[c:9]([H:16])[c:10]([H:17])[c:11]([H:18])[c:12]1[H:19])([H:13])[H:14]>>[C:0]([C:1]([H:4])[H:5])([H:2])([H:3])[C:6]([c:7]1[c:8]([H:15])[c:9]([H:16])[c:10]([H:17])[c:11]([H:18])[c:12]1[H:19])([H:13])[H:14],40.1246
[C:0]([C:1]([C:2]1([H:13])[C:3]([H:14])([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])[C:6]([H:19])([H:20])[C:7]1([H:21])[H:22])([H:11])[H:12])([H:8])([H:9])[H:10].[O:23][O:24]>>[C:0]([C:1]([C:2]1([H:13])[C:3]([H:14])([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([O:23][O:24])[C:6]([H:19])([H:20])[C:7]1([H:21])[H:22])([H:11])[H:12])([H:8])([H:9])[H:10],-6.250896
[C:0]([C:1]([O:2][H:8])([H:6])[H:7])([H:3])([H:4])[H:5].[H:9]>>[C:0]([C:1]([O:2])([H:6])[H:7])([H:3])([H:4])[H:5].[H:8][H:9],36.384064
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])[H:4].[S:8]([C:9]([c:10]1[c:11]([H:18])[c:12]([H:19])[c:13]([H:20])[c:14]([H:21])[c:15]1[H:22])[H:17])[H:16]>>[C:0](#[C:1][C:2]=[C:3]([H:6])[H:7])[H:4].[H:5][C:9]([S:8][H:16])([c:10]1[c:11]([H:18])[c:12]([H:19])[c:13]([H:20])[c:14]([H:21])[c:15]1[H:22])[H:17],109.202
[C:0](=[C:1]([C:2]([C:3]([H:15])([H:16])[H:17])=[C:4]([C:5]([H:18])([H:19])[H:20])[c:6]1[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]1[H:25])[H:14])([H:12])[H:13].[C:26](=[C:27]([H:29])[H:30])[H:28]>>[C:0](=[C:1]([C:2]([C:3]([H:15])([H:16])[H:17])[C:4]([C:5]([H:18])([H:19])[H:20])([c:6]1[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]1[H:25])[C:26](=[C:27]([H:29])[H:30])[H:28])[H:14])([H:12])[H:13],9.95792
[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])=[C:4]([c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])[H:15])[H:11].[C:21]([C:22]([C:23]([H:28])([H:29])[H:30])[C:24]([H:31])([H:32])[H:33])([H:25])([H:26])[H:27]>>[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])[C:4]([c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])([H:15])[C:22]([C:21]([H:25])([H:26])[H:27])([C:23]([H:28])([H:29])[H:30])[C:24]([H:31])([H:32])[H:33])[H:11],8.40984
[C:0]([C:1]([C:2](=[C:3]([C:4]([C:5](=[C:6]([C:7]([H:18])([H:19])[H:20])[C:8]([H:21])([H:22])[H:23])[H:17])([H:15])[H:16])[H:14])[H:13])[H:12])([H:9])([H:10])[H:11]>>[C:0]([C:1]1([H:12])[C:2]([H:13])=[C:3]([H:14])[C:4]([H:15])([H:16])[C:5]1([C:6]([C:7]([H:18])([H:19])[H:20])[C:8]([H:21])([H:22])[H:23])[H:17])([H:9])([H:10])[H:11],90.8765
[C:0](=[C:1]([S:2][H:6])[H:5])([H:3])[H:4].[C:7]([C:8]([H:11])([H:12])[H:13])([H:9])[H:10]>>[C:0](=[C:1][S:2][H:6])([H:3])[H:4].[H:5][C:7]([C:8]([H:11])([H:12])[H:13])([H:9])[H:10],53.8062
[C:0](=[C:1]([C:2](=[S:3])[H:7])[H:6])([H:4])[H:5].[C:8]([C:9]([c:10]1[c:11]([H:20])[c:12]([H:21])[c:13]([H:22])[c:14]([H:23])[c:15]1[H:24])[H:19])([H:16])([H:17])[H:18]>>[C:0](=[C:1][C:2](=[S:3])[H:7])([H:4])[H:5].[H:6][C:9]([C:8]([H:16])([H:17])[H:18])([c:10]1[c:11]([H:20])[c:12]([H:21])[c:13]([H:22])[c:14]([H:23])[c:15]1[H:24])[H:19],103.872
[C:0](#[C:1][C:2]([H:4])([H:5])[H:6])[H:3].[C:7](=[C:8][C:9](=[C:10]([H:14])[H:15])[H:13])([H:11])[H:12]>>[C:0](=[C:1][C:2]([H:4])([H:5])[H:6])([H:3])[C:8](=[C:7]([H:11])[H:12])[C:9](=[C:10]([H:14])[H:15])[H:13],35.564
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([H:7])[H:8])[H:6])([H:4])[H:5].[C:12]([C:13]([S:14][H:24])[c:15]1[c:16]([H:25])[c:17]([H:26])[c:18]([H:27])[c:19]([H:28])[c:20]1[H:29])([H:21])([H:22])[H:23]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[H:8])[H:6])([H:4])[H:5].[H:7][C:13]([C:12]([H:21])([H:22])[H:23])([S:14][H:24])[c:15]1[c:16]([H:25])[c:17]([H:26])[c:18]([H:27])[c:19]([H:28])[c:20]1[H:29],28.4512
[C:0]([C:1]([c:2]1[c:3]([H:13])[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]1[H:17])([H:11])[H:12])([H:8])([H:9])[H:10].[H:18]>>[C:0]([C:1]([c:2]1[c:3]([H:13])[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]1[H:17])([H:11])[H:12])([H:9])[H:10].[H:8][H:18],25.991008
[C:0](=[C:1]([C:2](=[S:3])[H:7])[H:6])([H:4])[H:5].[C:8]([H:9])([H:10])[H:11]>>[C:0](=[C:1]([C:2]=[S:3])[H:6])([H:4])[H:5].[H:7][C:8]([H:9])([H:10])[H:11],21.6313
